US06777443B2
A solution of O-benzyl-L-serine (9.75 g, 50 mmol) in ethanol (200 mL) is saturated with HCl gas for 8 minutes. The mixture is stirred overnight at room temperature, and then concentrated in vacuo. The solid is washed with diethyl ether and collected by filtration to yield O-benzyl-L-serine ethyl ester hydrochloride as a white solid.

reactant | O-benzyl-L-serine | 50 mmol, 9.75 g | C(C1=CC=CC=C1)OC[C@H](N)C(=O)O | C10H13NO3
reactant | HCl | Cl | ClH
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | O-benzyl-L-serine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)COCC1=CC=CC=C1)=O | InChI=1S/C12H17NO3.ClH/c1-2-16-12(14)11(13)9-15-8-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H/t11-;/m0./s1
